Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cymbalta / Neurontin / Topamax
 
Attending: ___
 
Chief Complaint:
nausea/dizziness

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ PMH of HTN and cerebral ___ transferred from ___ 
___ for hypertensive emergency. She has been seen there 3x in 
last two weeks for intractable nausea and dizziness. These 
symptoms have been present for the last six months or so. She 
reports she is extreme anxiety regarding why she
continues to have nausea and vomiting given her history of brain 
aneurysm. 

Today, she presented to a scheduled outpt GI appt for small 
bowel follow through but BP 190/103 despite taking atenolol. She 
had n/v  associated with full body flushing, chest pains, 
headaches. She was sent to the ED. CT head was negative. ECG 
with new TWI in aVL and V2, troponin elevated to 0.08. She was 
given ASA, given SLN with lower of diastolic to 100, and 
transferred to ___ ED for further workup.

Of note, recent pressures in clinic ___ w/ some dizziness on 
atenolol 50 qd. PCP changed to 25 bid.

In the ED, initial vitals: 98.0 68 176/110 16 98% ra  
Labs were significant for negative serum tox, urine tox positive 
for opiates, but no amphetamines or cocaine. K 3.1, Trop 0.03, 
UA w/ protein 30, glu 150, ket 10. Atrius cardiology was 
consulted and did not think she was having an acute ischemic 
event. She was given zofran and ativan for nausea, toradol for 
chest pain, and tylenol for fever. She was started on an esmolol 
gtt with 500mcg bolus and 50mcg/kg/min. Her drip was titrated up 
to 200mcg/kg/min. Also got 4L IVFs total (2L at OSH, 2L here).
On transfer, vitals were:  101.6 60 165/86 17 96% RA

On arrival to the MICU, pt complains of mild headache, denies 
nausea or chest pain (only associated w/ vomiting per pt).
 
Past Medical History:
TOBACCO DEPENDENCE  
PAIN SYNDROME - CHRONIC 
Anxiety states 
Headache, migraine  
History of cerebral aneurysm repair- treated in ___ and then 
another coiled in ___.
Depression 
Allergic rhinitis 
Asthma, mild intermittent 
HTN (hypertension) 

 
Social History:
___
Family History:
Father died of lung cancer at ___. No hx of aneurysms.
 
Physical Exam:
GENERAL: Alert, oriented, no acute distress, odd affect, face 
and neck appear flushed  
HEENT: Sclera anicteric, MMM, oropharynx clear, L pupil 1-2mm > 
R pupil  
NECK: supple  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: fine red peticheal rash to R hand and wrist, ecchymosis to 
more proximal wrist. Facial and neck flushing ends at base of 
neck, fairly well demarcated. 
NEURO: strength ___ throughout, sensation symmetric to light 
touch

 
Pertinent Results:
LABS:
=======
___ 03:14PM BLOOD WBC-4.8 RBC-4.93 Hgb-15.0 Hct-44.6 MCV-91 
MCH-30.4 MCHC-33.6 RDW-14.4 Plt ___
___ 05:57AM BLOOD WBC-8.0 RBC-4.49 Hgb-13.6 Hct-41.1 MCV-92 
MCH-30.3 MCHC-33.1 RDW-14.5 Plt ___
___ 03:14PM BLOOD Glucose-130* UreaN-9 Creat-0.7 Na-135 
K-3.1* Cl-95* HCO3-25 AnGap-18
___ 05:57AM BLOOD Glucose-112* UreaN-16 Creat-0.6 Na-135 
K-3.5 Cl-102 HCO3-23 AnGap-14
___ 03:14PM BLOOD cTropnT-0.03*
___ 11:24PM BLOOD cTropnT-0.07*
___ 04:12AM BLOOD CK-MB-4 cTropnT-0.05*

STUDIES:
=========
___ Renal U/S: Normal renal ultrasound. Normal renal Doppler.
___ Echo: The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. Mild symmetric left 
ventricular hypertrophy with normal cavity size, and global 
systolic function (biplane LVEF = 73 %). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve leaflets are structurally 
normal. There is no mitral valve prolapse. Trivial mitral 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be determined. There is no pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved biventricular cavity size and global/regional systolic 
function.
 
Brief Hospital Course:
___ w/ PMH of HTN and cerebral ___ transferred from ___ 
___ for hypertensive emergency, BPs 190s/100s. 

#Hypertensive emergency: Trop 0.08 was at ___, trended 
down. UA w/ mild protein and glucose may represent end organ 
damage as well given normal UA ___. Atrius records show that 
patient was normotensive a few months ago. An esmolol drip was 
started in the ED without significant effect on the patient's 
blood pressure. Captopril and labetalol were started, and the 
patient's pressures were 140s/90s monitored for 24 hours. Her 
captopril was converted to lisinopril at discharge. A workup for 
secondary hypertension was started. Renal ultrasound with 
doppler was normal. Echo showed moderate LVH but was otherwise 
unremarkable. Urine metanephrines and renin/aldosterone were 
sent off and will need to be followed up as an outpatient. She 
will follow up with her PCP.

#Fever: single fever to 101.6, afebrile thereafter. No 
leukocytosis. UCx negative. BCx no growth at discharge.

#Hypokalemia: 3.1 in the ED. Has had low K in the past, 3.2 when 
checked on ___ and ___. Likely due to nausea/vomiting. Resolved 
w/ repletion.

#Nausea/vomiting: Chronic, being worked up by outpatient GI w/ 
upper GI follow through. Gave ativan prn. Will continue w/u as 
outpatient.

#Cerebral aneurysms: Recent MRI w/ new 3mm left ICA aneurysm. No 
signs of bleed on multiple recent CT heads. F/u w/ neurosurgery 
as outpatient.
   
# Communication: Patient, ___ (husband/HCP) 
___  
# Code: Full  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO BID 
2. Fluoxetine 40 mg PO DAILY 
3. Ibuprofen 400 mg PO Q8H:PRN headache 

 
Discharge Medications:
1. Fluoxetine 40 mg PO DAILY 
2. Labetalol 400 mg PO TID 
RX *labetalol 200 mg 2 tablet(s) by mouth three times a day Disp 
#*180 Tablet Refills:*0
3. Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
4. Ibuprofen 400 mg PO Q8H:PRN headache 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hypertensive emergency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It has been a pleasure taking care of you in the hospital. You 
were admitted for very high blood pressures. You were monitored 
closely in the intensive care unit and two new blood pressure 
medications were started. A number of blood tests were sent to 
look for rare causes of high blood pressure. You should follow 
up with your primary care doctor on the results of these tests 
and to titrate your blood pressure medications as needed.
 
Followup Instructions:
___